Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([O:4][C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]=[C:3]([O:4][C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1],4.40760336699
[C:6]([H:7])([H:8])=[C:9][O:10][C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13],-2.45564491098
[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-2.27766463133
[H:1][C:2]([H:3])[C@:4]1([H:5])[C:6]([H:7])([H:8])[O:9][C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@:10]([O:9][C:6]([H:7])[H:8])([H:11])[C:12]([H:13])([H:14])[H:15],0.0175179703601
[C:3]([H:4])#[C:5][O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7][C:8]([H:9])([H:10])[H:11],-3.2563421474400003
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],1.77256543923
[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9].[H:1]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-3.52916348337
[C:7]([H:8])[H:9].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-8.56221570974
[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.56929533188
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:4]([H:5])#[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2][H:3],4.5785101708800005
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]=[C:9]([H:10])[H:11],2.46193585408
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])(=[C:7]=[O:8])[O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]=[O:8])[O:9][H:10],0.737842365381
[H:1][C:2][C:3]([H:4])[C:5]([H:6])[C:9]([H:10])=[C:11][H:12].[O:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12],-4.9183655735
[O:1]=[C:2]([H:3])[H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])[H:10]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],0.0998741201493
[C:5]([H:6])#[C:7][H:8].[H:1][C:2]([C:3]([H:4])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17])([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.34136776192
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.56753500141
[H:1][C:2]([H:3])=[C:4]([H:5])[C:14]([H:15])([H:16])[H:17].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.0502027625
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7][C:8]([H:9])([H:10])[H:11],-1.89968434515
[H:1][C:2](=[O:3])[C:12]([C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])([H:13])[H:14]>>[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14],-0.2464937939199999
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])[H:16],3.95260919774
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.71360913058
[C:1]#[C:2].[C:3](=[O:4])[O:5][H:6]>>[C:1]#[C:2][C:3](=[O:4])[O:5][H:6],-5.02227234363
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],2.04852364915
[C:1]#[C:2][C:3]#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:4]>>[C:1]#[C:2][C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10],-2.32610157324
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.23538211375
[O:1]=[C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8]>>[O:1]=[C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[H:8],0.18713292072
[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[O:10][H:11],0.7104366611290001
[C:8][O:9][H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8][O:9][H:10],-3.953410131580002
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:8][C:9]([H:10])[H:11].[H:7],3.4582315514699995
